US07084170B2
5-Bromo-4-methylsulfanylthiophene-2-sulfonamide
To a solution of 4-methylsulfanylthiophene-2-sulfonamide (210 mg, 1.00 mmol) in CHCl3 (10 mL) and AcOH (10 mL) is added N-bromosuccinimide (231 mg, 1.30 mmol). The reaction mixture is stirred at room temperature for 7 hr. After 7 hr, the reaction mixture is neutralized with 1 M NaOH and the solution is extracted with EtOAc (200 mL). The organic layer is washed with brine then dried (Na2SO4), filtered and concentrated in vacuo. The crude product is chromatographed on silica gel, eluting with Hex:EtOAc (3:1) to afford the title compound (200 mg, 70%).

reactant | 4-methylsulfanylthiophene-2-sulfonamide | 1.00 mmol, 210 mg | CSC=1C=C(SC1)S(=O)(=O)N | C5H7NO2S3
reactant | N-bromosuccinimide | 1.30 mmol, 231 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | 5-Bromo-4-methylsulfanylthiophene-2-sulfonamide | 200 mg, 70% | BrC1=C(C=C(S1)S(=O)(=O)N)SC | C5H6BrNO2S3
